US08957205B2
N-[[1-[[(Phenylmethoxy)carbonyl]amino]cyclohexyl]carbonyl]-L-valinol
After 422 mg (2.2 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added to a solution of 555 mg (2 mmol) of 1-[[(phenylmethoxy)carbonyl]amino]cyclohexanecarboxylic acid, 322 mg (2.1 mmol) of 1-hydroxybenzotriazole and 206 mg (2 mmol) of L-valinol in 20 ml of methylene chloride under ice-cooling, the mixture was stirred at room temperature for 18 hours. The reaction solution was concentrated under reduced pressure, ethyl acetate was added to the residue, and the mixture was washed with water, a 10% aqueous potassium hydrogensulfate solution, a saturated aqueous sodium hydrogencarbonate solution, and then saturated brine. The organic layer was dried with anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain 662 mg (91%) of the title compound.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.2 mmol, 422 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-[[(phenylmethoxy)carbonyl]amino]cyclohexanecarboxylic acid | 2 mmol, 555 mg | C1(=CC=CC=C1)COC(=O)NC1(CCCCC1)C(=O)O | C15H19NO4
reactant | 1-hydroxybenzotriazole | 2.1 mmol, 322 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | L-valinol | 2 mmol, 206 mg | N[C@@H](C(C)C)CO | C5H13NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[[1-[[(Phenylmethoxy)carbonyl]amino]cyclohexyl]carbonyl]-L-valinol | 662 mg, 91% | C1(=CC=CC=C1)COC(=O)NC1(CCCCC1)C(=O)N[C@@H](C(C)C)CO | C20H30N2O4
